US08957080B2
To the solution of 4-chloro-7-(phenylsulfonyl)-7H-pyrrolo[2,3-d]pyrimidine (3 g, 12.6 mmol, 1.0 eq) and TMEDA (3.0 mL, 18.9 mmol, 1.5 eq) in THF (120 mL), n-BuLi (7.5 mL, 18.9 mmol, 1.5 eq) was added at −78° C. After 3 min, CH3I (3.7 mL, 59.2 mmol, 4.7 eq) was added. After 3 h, the reaction mixture was warmed to RT over 1 h. The reaction was quenched by addition of sat NH4Cl (10 mL) at −78° C. EtOAc (200 mL) and water (100 mL) was added. The organic layer was separated, dried and concentrated to afford 4-chloro-6-methyl-7-(phenylsulfonyl)-7H-pyrrolo[2,3-d]pyrimidine as a brown solid (6.7 g, 90% in yield).

reactant | 4-chloro-7-(phenylsulfonyl)-7H-pyrrolo[2,3-d]pyrimidine | 12.6 mmol, 3 g, 1.0 eq | ClC=1C2=C(N=CN1)N(C=C2)S(=O)(=O)C2=CC=CC=C2 | C12H8ClN3O2S
reactant | TMEDA | 18.9 mmol, 3.0 mL, 1.5 eq | CN(C)CCN(C)C | C6H16N2
reactant | n-BuLi | 18.9 mmol, 7.5 mL, 1.5 eq | [Li]CCCC
reactant | CH3I | 59.2 mmol, 3.7 mL, 4.7 eq | CI | CH3I
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | 4-chloro-6-methyl-7-(phenylsulfonyl)-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)N(C(=C2)C)S(=O)(=O)C2=CC=CC=C2 | C13H10ClN3O2S
